US08703758B2
B) tert-butyl [(1S)-2-{[1-(5-methoxy-1,3-benzothiazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate
A mixture of 2-chloro-5-methoxy-1,3-benzothiazole (143 mg), tert-butyl [(1S)-1-methyl-2-(piperidin-4-yloxy)ethyl]carbamate (186 mg), N,N-diisopropylethylamine (93 mg) and DMF (3 mL) was stirred at 150° C. for 1.5 hr under microwave irradiation. Water was added to the reaction mixture, and the obtained mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (194 mg).

reactant | 2-chloro-5-methoxy-1,3-benzothiazole | 143 mg | ClC=1SC2=C(N1)C=C(C=C2)OC | C8H6ClNOS
reactant | tert-butyl [(1S)-1-methyl-2-(piperidin-4-yloxy)ethyl]carbamate | 186 mg | C[C@@H](COC1CCNCC1)NC(OC(C)(C)C)=O | C13H26N2O3
reactant | N,N-diisopropylethylamine | 93 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | tert-butyl [(1S)-2-{[1-(5-methoxy-1,3-benzothiazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate | 194 mg | COC=1C=CC2=C(N=C(S2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C21H31N3O4S
